US06087380
a) 1-Methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide
Prepared analogously to Example 25c from N-(4-cyanophenyl)-glycine and 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide. Yield: 24% of theory, Rf value: 0.56 (silica gel; dichloromethane/methanol=4:1)

reactant | N-(4-cyanophenyl)-glycine | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
reactant | 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CC(=O)OCC | C17H20N4O3
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide | Yield: 24% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C26H24N6O3
